US20010000513A1
In a manner similar to Example 4, Step (b), 4-(4′-methyl-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester (1.21 g, 0.0043 mol) was refluxed in 6 M aqueous hydrochloric acid to give 1.12 g of 4-(4′-methyl-biphenyl-4-yl)-4-oxo-butyric acid as an off-white solid; mp 183-186° C.

reactant | 4-(4′-methyl-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.0043 mol, 1.21 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C18H18O3
solvent | hydrochloric acid | 6 M | Cl | ClH
product | 4-(4′-methyl-biphenyl-4-yl)-4-oxo-butyric acid | 1.12 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C17H16O3
